US08735384B2
To a solution of (2-bromo-3-methylphenyl)(pyrimidin-4-yl)methanol (0.40 g, 1.433 mmol) in DCM (10 mL) were added sodium bicarbonate (0.223 mL, 5.73 mmol) and Dess-Martin periodinane (0.790 g, 1.863 mmol) in one portion. The resulting mixture was stirred at RT for 1 h then quenched with sat NaHCO3 and sodium thio sulfate pentahydrate (1.778 g, 7.17 mmol). The quenched mixture was stirred for 1 h more and extracted with DCM. The combined organics were washed with brine, dried over Na2SO4, filtered and concentrated to afford (2-bromo-3-methylphenyl) (pyrimidin-4-yl)methanone which was used without purification.

reactant | (2-bromo-3-methylphenyl)(pyrimidin-4-yl)methanol | 1.433 mmol, 0.40 g | BrC1=C(C=CC=C1C)C(O)C1=NC=NC=C1 | C12H11BrN2O
reactant | sodium bicarbonate | 5.73 mmol, 0.223 mL | C([O-])(O)=O.[Na+]
reactant | Dess-Martin periodinane | 1.863 mmol, 0.790 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | sodium thio sulfate pentahydrate | 7.17 mmol, 1.778 g | O.O.O.O.O.S1(=O)(=O)OSO1.[Na]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (2-bromo-3-methylphenyl) (pyrimidin-4-yl)methanone | BrC1=C(C=CC=C1C)C(=O)C1=NC=NC=C1 | C12H9BrN2O
